US07947689B2
2,4-Dimethyl-6,7-dihydro-furo[3,2-c]pyridine
In close analogy to the procedure described above, N-[2-(5-Methyl-furan-2-yl)-ethyl]-acetamide is reacted with phosphorus pentoxide to provide the title compound.

reactant | N-[2-(5-Methyl-furan-2-yl)-ethyl]-acetamide | CC1=CC=C(O1)CCNC(C)=O | C9H13NO2
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 2,4-Dimethyl-6,7-dihydro-furo[3,2-c]pyridine | CC1=CC=2C(=NCCC2O1)C | C9H11NO
